US07034043B2
N-(benzenesulfonyl)-Proline Methyl Ester:
To a solution of 25 g (0.15 mol) of L-Proline methyl ester hydrochloride in 500 mL of CH2Cl2 was added 70 mL (0.5. mol) of triethylamine with stirring to give copious white precipitate. The mixture was filtered and the filtrate cooled to 0° C. (ice bath) with stirring. To the cooled solution was added a solution of 20 mL (0.15 mol) of benzenesulfonyl chloride in 50 mL of CH2Cl2 dropwise over fifteen minutes. The addition funnel was rinsed with an additional 25 mL of CH2Cl2, and the cloudy, colorless mixture was allowed to warm to room temperature with stirring overnight. The solution was washed 2× with 400 mL of 1N HCl, 2× with 400 mL of 1N NaOH, 1× with brine, then dried (MgSO4), filtered, and concentrated to a pale yellow solid. This material was recrystallized three times from ethyl acetate/hexanes to give 38.2 g (0.142 mol, 95%) of N-(benzenesulfonyl)-Proline methyl ester (MW=269) as broad white needles (TLC vs. 2:1 hexanes/ethyl acetate, Rf=0.35). M/z=270.2 (M+H+). N-(benzenesulfonyl)-Proline: To a solution of 38.2 g (0.142 mol) of the above methyl ester in 500 mL methanol was added 140 mL (0.28 mol) of freshly-prepared 2M aqueous LiOH with stirring to give a colorless solution. This was stirred overnight, after which HPLC showed no starting material. The solution was reduced by 50% in vacuo and partitioned between 1N HCl and CH2Cl2 (200 mL each). The phases were separated and the aqueous layer was washed again with CH2Cl2. The organic phases were combined, dried (MgSO4), and concentrated to a white solid. This was recrystallized twice from ethyl acetate/hexanes to give 34.7 g (0.136 mol, 96%) of the title compound as fine white needles. M/z=256.2 (M+H+).

reactant | N-(benzenesulfonyl)-Proline | C1(=CC=CC=C1)S(=O)(=O)N1[C@H](C(=O)O)CCC1 | C11H13NO4S
reactant | LiOH | 2M | [Li+].[OH-]
reactant | methanol | 500 mL | CO | CH4O
product | N-(benzenesulfonyl)-Proline Methyl Ester | 0.136 mol, 34.7 g, 96% | COC([C@H]1N(CCC1)S(=O)(=O)C1=CC=CC=C1)=O | C12H15NO4S
